US08440652B2
A solution of tert-butyl (3-(4,4,5,5-tetra methyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)carbamate (416 mg, 1.3 mmol), 2-bromo-5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one (300 mg, 1.3 mmol) and Pd(PPh3)4 (23 mg, 0.02 mmol) in n-BuOH (3 mL) and 2M Na2CO3 (3 mL) was degassed under bubbling nitrogen and the reaction was heated 2 h at 100° C. Upon completion, the reaction was filtered and concentrated under reduced pressure, then partitioned between DCM (10 mL) water (10 mL). The layers were separated and the aqueous layer was extracted with DCM (3×10 mL). The combined organics were dried over Na2SO4 and concentrated. The concentrate was slurried in EtOAc, sonicated and filtered to afford 2-(2-aminopyridin-3-yl)-5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one (281 mg, 88% yield) as a white solid. 1H NMR (300 MHz, MeOH) δ ppm 7.99 (dd, J=5.0, 1.3 Hz, 1H), 7.62 (dd, J=7.5, 1.4 Hz, 1H), 7.25 (s, 1H), 6.76 (dd, J=7.5, 5.1 Hz, 1H), 3.61 (t, J=7.0 Hz, 2H), 2.97 (t, J=7.1 Hz, 2H); MS (EI) m/z=246.3 [M+1]+.

reactant | tert-butyl (3-(4,4,5,5-tetra methyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)carbamate | 1.3 mmol, 416 mg | CC1(OB(OC1(C)C)C=1C(=NC=CC1)NC(OC(C)(C)C)=O)C | C16H25BN2O4
reactant | 2-bromo-5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one | 1.3 mmol, 300 mg | BrC1=CC2=C(C(NCC2)=O)S1 | C7H6BrNOS
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
solvent | Na2CO3 | 2M, 3 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-aminopyridin-3-yl)-5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one | 281 mg, 88% yield | NC1=NC=CC=C1C1=CC2=C(C(NCC2)=O)S1 | C12H11N3OS
